US06596772B1
A mixture of 4,4′-diamino-2,2′dimethylbibenzyl (0.5 g, 2.08 mmol), triflic anhydride (0.77 mL) and sodium bicarbonate (0.7 g, 8.32 mmol) in DCM was stirred at rt overnight to give 1,2-bis(2-methyl-4-trifluoromethylsulfonamidophenyl)ethane. 1HNMR (300 MHz, DMSO-d6) δ 11.61 (s, br, 2H, 2×NH), 7.14 (d, J=7.5 Hz, 2H), 6.99 (m, 4H), 2.75 (s, 4H, 2×CH2),2.21 (s, 6H, 2×CH3). MS-EI m/z 504 [M+].

reactant | 4,4′-diamino-2,2′dimethylbibenzyl | 2.08 mmol, 0.5 g | NC1=CC(=C(C=C1)CCC1=C(C=C(C=C1)N)C)C | C16H20N2
reactant | triflic anhydride | 0.77 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 8.32 mmol, 0.7 g | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,2-bis(2-methyl-4-trifluoromethylsulfonamidophenyl)ethane | CC1=C(C=CC(=C1)NS(=O)(=O)C(F)(F)F)CCC1=C(C=C(C=C1)NS(=O)(=O)C(F)(F)F)C | C18H18F6N2O4S2
